US04017492
In the manner given in Example 1, 7-nitro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with methyl pyruvate at room temperature to give 7-nitro-2-[[1-(methoxycarbonyl)ethylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-nitro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12ClN5O2
reactant | methyl pyruvate | C(C(=O)C)(=O)OC | C4H6O3
product | 7-nitro-2-[[1-(methoxycarbonyl)ethylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NN=C(C)C(=O)OC)C2=C(C=CC=C2)Cl)C1 | C19H16ClN5O4
